US08058444B2
N-(3-iodo-pyridin-2-yl)-2,2-dimethyl-propionamide
To a mixture of 2,2-dimethyl-N-pyridin-2-yl-propionamide described in Preparation Example 1-1-1 (3.0 g, 17 mmol), N,N,N′,N′-tetramethyl ethylenediamine (6.3 mL, 42 mmol) and tetrahydrofuran (60 mL) was added n-butyl lithium (1.6M n-hexane solution, 30 mL, 47 mmol) dropwise at −78° C, which was stirred overnight at 0° C. To the reaction mixture was added iodine (6.8 g, 27 mmol) at −78° C, which was stirred at 0° C for 1.5 hours. To the reaction mixture were added water and a saturated aqueous solution of sodium thiosulfate, and extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride water, and the solvent thereof was evaporated under a reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:heptane=2:1) to obtain the title compound (2.9 g).

reactant | 2,2-dimethyl-N-pyridin-2-yl-propionamide | CC(C(=O)NC1=NC=CC=C1)(C)C | C10H14N2O
reactant | N,N,N′,N′-tetramethyl ethylenediamine | 42 mmol, 6.3 mL | CN(CCN(C)C)C | C6H16N2
reactant | n-butyl lithium | 47 mmol, 1.6M, 30 mL | C(CCC)[Li]
reactant | iodine | 27 mmol, 6.8 g | II | I2
solvent | water | O | H2O
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
product | N-(3-iodo-pyridin-2-yl)-2,2-dimethyl-propionamide | 2.9 g | IC=1C(=NC=CC1)NC(C(C)(C)C)=O | C10H13IN2O
